US08912208B2
B. (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetic acid ethyl ester
To a solution of {4-[4-(2-azidoacetyl)-phenyl]-cyclohexyl}-acetic acid ethyl ester (154 mg, 0967 mmol) in 1,4-dioxane (5 mL) is added triphenylphosphine (122 mg, 0.967 mmol) and 1-chloro-3-isothiocyanatobenzene (0.051 mL, 0.389 mmol). The reaction mixture is then heated at 90° C. for 30 min. Water (10 mL) is added and EtOAc (20 mL) is used to extract. The organic phase is washed with brine (1×15 mL), dried with MgSO4, and concentrated to give the title compound (109 mg) as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.19 (t, J=7.20 Hz, 3 H) 1.12-1.19 (m, 2 H) 1.43-1.52 (m, 2 H) 1.81 (d, J=10.61 Hz, 4 H) 1.73-1.84 (m, 1 H) 2.23 (d, J=6.82 Hz, 2 H) 4.07 (q, J=7.07Hz, 2 H) 6.99 (ddd, J=7.83, 2.02, 0.76 Hz, 1 H) 7.28-7.36 (m, 3 H) 7.41 (s, 1 H) 7.47-7.53 (m, 3 H) 7.85 (t, J=2.02 Hz, 1 H) 10.52 (s, 1 H); (M+H)+ 439.2.

reactant | {4-[4-(2-azidoacetyl)-phenyl]-cyclohexyl}-acetic acid ethyl ester | 154 mg | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C(CN=[N+]=[N-])=O)=O | C18H23N3O3
reactant | triphenylphosphine | 0.967 mmol, 122 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-chloro-3-isothiocyanatobenzene | 0.389 mmol, 0.051 mL | ClC1=CC(=CC=C1)N=C=S | C7H4ClNS
reactant | Water | 10 mL | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetic acid ethyl ester | 109 mg | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C1=CN=C(O1)NC1=CC(=CC=C1)Cl)=O | C25H27ClN2O3
